US04204991
30.9 g of t-butoxycarbonylnitroarginylvalyltyrosine methyl ester is dissolved in 177 ml of acetic acid. To this solution is added 88.5 ml of 6 N hydrochloric acid in dioxane. The reaction is allowed to stand for five minutes and the solvent is removed under vacuum. The residue is triturated with ethyl ether. The resultant precipitate is filtered, washed with ethyl ether and dried in a vacuum oven at 55° C. to afford nitroarginylvalyltyrosine methyl ester hydrochloride.

reactant | t-butoxycarbonylnitroarginylvalyltyrosine methyl ester | 30.9 g | COC([C@@H](NC([C@@H](NC([C@@H](N([N+](=O)[O-])C(=O)OC(C)(C)C)CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O | C26H41N7O9
reactant | hydrochloric acid | 6 N, 88.5 ml | Cl | ClH
solvent | acetic acid | 177 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | nitroarginylvalyltyrosine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](NC([C@@H](N[N+](=O)[O-])CCCNC(N)=N)=O)C(C)C)=O)CC1=CC=C(C=C1)O)=O | InChI=1S/C21H33N7O7.ClH/c1-12(2)17(26-18(30)15(27-28(33)34)5-4-10-24-21(22)23)19(31)25-16(20(32)35-3)11-13-6-8-14(29)9-7-13;/h6-9,12,15-17,27,29H,4-5,10-11H2,1-3H3,(H,25,31)(H,26,30)(H4,22,23,24);1H/t15-,16-,17-;/m0./s1
